US07456315B2
To a 100 mL flask containing 10.1 g (0.039 mol) of methyl 2-bromomethyl-3-methoxybenzoate in 50 mL of CH3OH, were added 19 g of a 25% wt. solution of NaOMe (4.74 g, 0.087 mol). The reaction was stirred at room temperature for 2 hours and then evaporated on a rotary evaporator to remove the CH3OH. About 200 mL of water were added to the residue and the resulting solution was extracted with CHCl3. The CHCl3 extract was dried and evaporated to yield 6.27 g of crude methyl 3-methoxy-2-methoxymethylbenzoate (77% yield). 1H NMR (CDCl3, 300 MHz) δ (ppm): 7-7.4 (multiple, 3H), 4.783 (s, 2H), 3.897 (s, 3H), 3.864 (s, 3H), 3.37 (s, 3H). 6.27 g of methyl 3-methoxy-2-methoxymethylbenzoate was stirred with a 20% aqueous KOH solution (6.7 g, 0.12 mol in 34 g of solution) at 50° C. in an oil bath for 4-5 hours, and then at room temperature for 16 hours. The reaction mixture was acidified with 3N HCl to pH 2 and extracted with CH2Cl2. The CH2Cl2 extract was dried and evaporated to yield 5.35 g of 3-methoxy-2-methoxymethylbenzoic acid (92% yield). 1H NMR (CDCl3, 300 MHz) δ (ppm): 7.65 (1H, d), 7.40 (t, 1H), 7.10 (d, 1H), 4.83 (s, 2H), 3.88 (s, 3H), 3.46 (s, 3H).

reactant | methyl 3-methoxy-2-methoxymethylbenzoate | 6.27 g | COC=1C(=C(C(=O)OC)C=CC1)COC | C11H14O4
reactant | KOH | 0.12 mol, 6.7 g | [OH-].[K+]
reactant | HCl | 3N | Cl | ClH
product | 3-methoxy-2-methoxymethylbenzoic acid | 5.35 g, 92% yield | COC=1C(=C(C(=O)O)C=CC1)COC | C10H12O4
